US20010053834A1
Synthesis of 3-hydroxypropyl 5-norbornene-2-carboxylate
In a reactor, cyclopentadiene (66 g) and tetrahydrofuran solvent (500 g) were charged, and the mixture was stirred homogeneously. To the reaction mixture, 3-hydroxypropyl acrylate (130 g) was added, and the resultant mixture was stirred at a temperature between -30° C. and 60° C. for about 10 hours to carry out the reaction.

reactant | cyclopentadiene | 66 g | C1=CC=CC1 | C5H6
reactant | 3-hydroxypropyl acrylate | 130 g | C(C=C)(=O)OCCCO | C6H10O3
reactant | tetrahydrofuran | 500 g | O1CCCC1 | C4H8O
product | 3-hydroxypropyl 5-norbornene-2-carboxylate | C12C(CC(C=C1)C2)C(=O)OCCCO | C11H16O3
